US06239129B1
Step a: Tert-butyl 3-[(6-cyano-1H-indol-1-yl)methyl]-1-pyrrolidinecarboxylate
77 mmol of potassium tert-butylate are added to a solution of 70 mmol of 6-cyanoindole in 400 ml of tetrahydrofuran. After 10 minutes' stirring at room temperature, 70 mmol of tert-butyl 3-[(methylphenyl)sulphonyloxymethyl]-1-pyrrolidinecarboxylate in 60 ml of tetrahydrofuran are added. The reaction mixture is heated at reflux for 12 hours. After cooling and dilution with water, the solvent is removed by evaporation. The residue is extracted with dichloromethane and the organic phase is washed with water, dried and concentrated to yield the expected product.

reactant | potassium tert-butylate | 77 mmol | CC(C)(C)[O-].[K+]
reactant | 6-cyanoindole | 70 mmol | C(#N)C1=CC=C2C=CNC2=C1 | C9H6N2
reactant | tert-butyl 3-[(methylphenyl)sulphonyloxymethyl]-1-pyrrolidinecarboxylate | 70 mmol | CC1=C(C=CC=C1)S(=O)(=O)OCC1CN(CC1)C(=O)OC(C)(C)C | C17H25NO5S
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | Tert-butyl 3-[(6-cyano-1H-indol-1-yl)methyl]-1-pyrrolidinecarboxylate | C(#N)C1=CC=C2C=CN(C2=C1)CC1CN(CC1)C(=O)OC(C)(C)C | C19H23N3O2
